US09428502B2
Compound 42.1. t-Butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate
Into a 1-L 3-necked round-bottom flask, which was purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 1-chloro-4-iodobenzene (10.0 g, 41.9 mmol) in tetrahydrofuran (150 mL). The solution was cooled to −78° C., then n-BuLi (2.4 M) (16.6 mL, 39.8 mmol) was added dropwise and the resulting mixture was stirred for 0.5 h at −78° C. A solution of tert-butyl 4-oxopiperidine-1-carboxylate (7.60 g, 38.1 mmol) in tetrahydrofuran (50 mL) was added dropwise and the resulting mixture was stirred for 1 h at -78° C. The reaction was then warmed to 0° C., and carefully quenched by the slow addition of water (150 mL). The layers were separated and the aqueous phase was extracted with ethyl acetate (150 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography with ethyl acetate/petroleum ether (1:50 to 1:3) to yield the title compound as a light yellow solid (9.3 g, 78%).

reactant | 1-chloro-4-iodobenzene | 41.9 mmol, 10.0 g | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | n-BuLi | 39.8 mmol, 2.4 M, 16.6 mL | [Li]CCCC
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 38.1 mmol, 7.60 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | t-Butyl 4-(4-chlorophenyl)-4-hydroxypiperidine-1-carboxylate | 9.3 g, 78% | ClC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C16H22ClNO3
